US08937176B2
6.02.14.04 (1-Ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-methanol
4 g 2-benzyloxymethyl-1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazole was stirred 24 h at 85° C. in 40 mL concentrated aqueous hydrochloride acid. The mixture was dropped in a cooled 10% aqueous sodium hydroxide solution. The precipitate was filtered, washed with water and dried at 50° C. to yield 2.8 g of the desired product. Rt: 0.60 min (method J), (M+H)+: 235

reactant | 2-benzyloxymethyl-1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazole | 4 g | C(C1=CC=CC=C1)OCC=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CC | C20H21FN2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloride | 40 mL | Cl | ClH
product | (1-Ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-methanol | 2.8 g | C(C)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C)CO | C13H15FN2O
